US08076516B2
A solution of 3-bromobenzoyl chloride (2.0 g, 9.1 mmol) in CH2Cl2 was added to a solution triethylamine (1.9 ml, 13.7 mmol) and cyclohexylamine (1.15 ml, 10.0 mmol) in CH2Cl2 at room temperature with stirring. After 2 h, the mixture was washed with HCl (4N), brine, dried over Na2SO4 and concentrated under reduced pressure to give 3-bromo-N-cyclohexylbenzamide as a white solid. Yield (2.43 g, 95%): 1H NMR (400 MHz, CD3OD) δ 8.29 (br s, 1H), 7.95 (t, J=2.0 Hz, 1H), 7.42-7.77 (m, 1H), 7.64-7.67 (m, 1H), 7.36 (t, J=8.0 Hz, 1H), 3.78-3.84 (m, 1H), 1.92-1.94 (m, 2H), 1.78-1.81 (m, 2H), 1.65-1.69 (m, 1H), 1.16-1.46 (m, 5H).

reactant | 3-bromobenzoyl chloride | 9.1 mmol, 2.0 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | triethylamine | 13.7 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexylamine | 10.0 mmol, 1.15 ml | C1(CCCCC1)N | C6H13N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-bromo-N-cyclohexylbenzamide | BrC=1C=C(C(=O)NC2CCCCC2)C=CC1 | C13H16BrNO
